2133-10-12 07:04:00 Physician Resident Progress Note
Chief Complaint: Cardiac arrest
   24 Hour Events:
   c/o [**1-25**] chest tightness since 9PM last night that he did not want to
   report, lasting about 30 minute and again this morning.  Thinks it
   from anxiety
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-10-11**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-10-12**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 62 (51 - 93) bpm
   BP: 117/70(83) {99/58(68) - 121/75(85)} mmHg
   RR: 15 (13 - 21) insp/min
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
                  Total In:
                                                                  1,400 mL
                                                                    240 mL
   PO:
                                                                  1,400 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    450 mL
   Urine:
                                                                  2,450 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,050 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ///28/
   Physical Examination
   GENERAL: Sleepy but arousable. Oriented to place and time, but asks his
   wife frequently about recent events.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no appreciable JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   196 K/uL
   13.5 g/dL
   90 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   15 mg/dL
   103 mEq/L
   138 mEq/L
   36.5 %
   3.9 K/uL
        [image002.jpg]
                            [**2133-10-9**]  03:45 PM
                            [**2133-10-10**]  04:57 AM
                            [**2133-10-11**]  06:13 AM
                            [**2133-10-12**]  06:31 AM
   WBC
   7.1
   6.0
   3.6
   3.9
   Hct
   35.5
   35.4
   35.2
   36.5
   Plt
   [**Telephone/Fax (3) 1688**]96
   Cr
   0.8
   0.7
   0.7
   0.7
   TropT
   0.01
   <0.01
   Glucose
   106
   107
   91
   90
   Other labs: PT / PTT / INR:12.6/26.0/1.1, CK / CKMB /
   Troponin-T:104/3/<0.01, ALT / AST:51/41, Differential-Neuts:84.2 %,
   Lymph:10.6 %, Mono:4.2 %, Eos:0.7 %, D-dimer:737 ng/mL, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   51 y/o man with no known history of any coronary artery disease and
   minimal CAD risk factors who presented after sudden cardiac arrest
   after being revived with CPR/AED en route to ED.
   .
   # Sudden Cardiac Arrest: Pt with excellent exercise tolerance at
   baseline and normal stress echo 4 years prior. Admission cardiac cath
   showed no CAD and ECHO WNL with LVEF >55%. On scene strips corroborated
   V-Fib with changeover to sinus rhythm. Baseline EKG with LVH and ST-T
   wave configuration consistent with early repolarization pattern,
   otherwise benign. Since admission, he has been in NSR to sinus brady
   and assymptomatic.
   He had some mild chest tightness the morning of [**10-12**]. The pain was
   [**1-25**] left-sided, non-pleuritic, non-radiating. He denied SOB, nausea,
   diaphoresis. EKG was unchanged and cardiac enzymes were normal. Given
   known clean coronary arteries, this could possibly represent coronary
   vasospasm that resolved prior to taking an EKG, but was most likely to
   be related to anxiety.
   -follow cardiac enzymes
   -Cardiac MRI today
   -f/up final time and plan for ICD placement w/EP team, likely Tuesday
   [**10-13**], NPO past midnight
   -f/up EP about the need for formal EP study and ask about need for any
   further EKG screening of family members
   -continue BB, Metoprolol Tartrate 12.5mg [**Hospital1 **] can be switched to 25mg
   Toprol XL on discharge
   -continuous telemetry monitoring, daily EKGs
   .
   # Cognitive Impairment: Secondary to hypoxia in setting of recent
   arrest. He had short term memory deficits that have improved steadily
   during course of admission.
   -continue to monitor neurologic status
   -Neurology consult ([**Last Name (un) 1680**] [**Doctor Last Name 285**]).
   -Unlikely to need a neuro MRI as seizures very unlikely, but willl
   discuss with Dr. [**First Name (STitle) 285**]
   .
   # FEN: cardiac healthy diet for now, NPO past midnight tonight.
   .
   # PPx: Heparin SQ
   .
   ACCESS: PIV's
   PROPHYLAXIS:
   -Bowel regimen
   CODE: full
   DISPO: CCU, will plan to go to floor after procedure
   .
   .
   Active Medications [**Known lastname 1689**],[**Known firstname **]
   1. Aspirin 325 mg PO DAILY  Order date: [**10-9**] @ 1537
   5. Heparin 5000 UNIT SC TID  Order date: [**10-9**] @ 1537
   2. Atropine Sulfate 0.5 mg IV X1:PRN symptomatic bradycardia &
   hypotension
   [**Month (only) 11**] repeat up to 2 mg total (including Atropine during procedure).
   Order date: [**10-9**] @ 1719
   6. Metoprolol Succinate XL 25 mg PO DAILY
   Hold for BP < 95, HR < 55.   Order date: [**10-11**] @ 0909
   3. Bisacodyl 10 mg PO/PR DAILY:PRN  Order date: [**10-9**] @ 1537
   7. Senna 1 TAB PO BID:PRN  Order date: [**10-9**] @ 1537
   4. Docusate Sodium (Liquid) 100 mg PO BID  Order date: [**10-9**] @ 1537